US04144342
To a suspension of 0.2 gm. of lithium aluminum hydride in 100 ml. of dry tetrahydrofuran was added 0.004 mole of bis[2-methyl-3-hydroxy-5-vinyl-4-pyridylmethyl]disulfide. The reactin mixture was stirred for 3 hours at 0-5°. At this time there was added to the reaction mixture 100 ml. of benzene, 50 ml. of water, and 20 gm. ammonium chloride. The organic layer was separated and the aqueous extracted 2 times with 50 ml. of benzene. The combined benzene extracts were washed well with water, dried over sodium sulfate, and concentrated in vacuo. Chromatography on silica gel (250 gm. ) and elution with ether gave 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | bis[2-methyl-3-hydroxy-5-vinyl-4-pyridylmethyl]disulfide | 0.004 mole | CC1=NC=C(C(=C1O)CSSCC1=C(C(=NC=C1C=C)C)O)C=C | C18H20N2O2S2
reactant | reactin | CN1CCC(=C2C3=CC=CC=C3C=CC4=CC=CC=C42)CC1 | C21H21N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine | CC1=NC=C(C(=C1O)CS)C=C | C9H11NOS
